US06329370B1
1-[2-(4,4-Dimethyl-4,5-dihydro-oxazol-2-yl)-5-methoxy-phenyl]-5-phenyl-pentan-1-one
A solution of 1-[2-(4,4-dimethyl-4,5-dihydro-oxazol-2-yl)-5-methoxy-phenyl]-5-phenyl-pentan-1-ol (0.62 g, 1.7 mmoles), prepared as described in example 17, in DMSO (10 ml) was added with triethylamine (35 ml) and, after 30 minutes, with pyridinium sulfur trioxide (1.62 g, 10.2 mmoles). After 6 hours, the mixture was diluted with 10 volumes of water and twice extracted with ethyl ether. The organic phases were washed with water, discoloured with charcoal, anhydrified and concentrated. The residue was flash chromatographed (eluent: petrolatum/ethyl acetate 7:3) to give 0.37 g of the title compound (yield: 60%).

reactant | 1-[2-(4,4-dimethyl-4,5-dihydro-oxazol-2-yl)-5-methoxy-phenyl]-5-phenyl-pentan-1-ol | 1.7 mmoles, 0.62 g | CC1(N=C(OC1)C1=C(C=C(C=C1)OC)C(CCCCC1=CC=CC=C1)O)C | C23H29NO3
reactant | triethylamine | 35 ml | C(C)N(CC)CC | C6H15N
reactant | pyridinium sulfur trioxide | 10.2 mmoles, 1.62 g | S(=O)(=O)=O.[NH+]1=CC=CC=C1
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-[2-(4,4-Dimethyl-4,5-dihydro-oxazol-2-yl)-5-methoxy-phenyl]-5-phenyl-pentan-1-one | 0.37 g, yield: 60% | CC1(N=C(OC1)C1=C(C=C(C=C1)OC)C(CCCCC1=CC=CC=C1)=O)C | C23H27NO3
